US08791123B2
(R)-tert-butyl 3-(5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamido)propylcarbamate
To a mixture of (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation K, 200 mg, 0.560 mmol) and HATU (255 mg, 0.672 mmol) in DMF (2 mL) was added DIEA (292 μL, 1.68 mmol), followed by dropwise addition of tert-butyl 3-aminopropylcarbamate (117 mg, 0.672 mmol) at ambient temperature. After stirring for 3 hours, the reaction was directly purified by reverse-phase chromatography (5 to 70% acetonitrile/water) to yield the final product as white solid (250 mg, 87%). LCMS (apci) m/z=414.1 (M+H-Boc).

reactant | (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.560 mmol, 200 mg | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
reactant | HATU | 0.672 mmol, 255 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.68 mmol, 292 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-aminopropylcarbamate | 0.672 mmol, 117 mg | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-(5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamido)propylcarbamate | 250 mg, 87% | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NCCCNC(OC(C)(C)C)=O | C25H32FN7O4
